US07705028B2
5e) [3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methanol
A solution of methyl 3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolecarboxylate (0.900 g, 2.63 mmol) in THF (7.3 mL) was stirred at 0° C. as a 1.5M solution of diisobutylaluminum hydride in toluene (3.7 mL, 5.6 mmol) was added. The solution was allowed to warm to room temperature and stir overnight. Additional diisobutylaluminum hydride in toluene (1.8 mL, 2.7 mmol) was added and the solution was allowed to stir for another 3 hours. Methanol was added followed by a saturated aqueous solution of Rochelle's salt. The solution was stirred for two hours then was partitioned between ethyl acetate and brine. The organic layer was dried with magnesium sulfate, concentrated and purified by chromatography (silica gel, 0-60% ethyl acetate in hexane) to provide the title compound (0.80 g, 51.6% as 0.25EtOAc). 1H NMR (DMSO-d6): δ 7.45 (d, J=8 Hz, 2H), 7.28 (t, J=8 Hz, 1H), 4.89 (t, J=5 Hz, 1H), 4.26 (d, J=5 Hz, 2H), 3.31-3.18 (m, 3H), 2.83-2.79 (m, 2H), 1.21 (d, J=7 Hz, 6H).

reactant | methyl 3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolecarboxylate | 2.63 mmol, 0.900 g | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1C(=O)OC)C(C)C | C16H17Cl2NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 5.6 mmol, 3.7 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 2.7 mmol, 1.8 mL | C1(=CC=CC=C1)C | C7H8
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 7.3 mL | C1CCOC1 | C4H8O
solvent | Methanol | CO | CH4O
product | [3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methanol | 0.80 g, 51.6% | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1CO)C(C)C | C15H17Cl2NO2
